Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Morphine / 
Aspirin
 
Attending: ___.
 
Chief Complaint:
found unresponsive
 
Major Surgical or Invasive Procedure:
intubation prior to arrival
 
History of Present Illness:
Mr. ___ is a ___ year old man with hx of CAD s/p CABG, s/p 
pacer insertion, AAA who presented to the ED after his wife 
heard him fall in the bathroom.  EMS was activated by his wife 
and on arrival he was found in to be in ___.  He was shocked 
twice to PEA.  He was given 4mg Epi, 3mg Atropine total.  On 
arrival to the ED, he was found to have a spontaneous pulse and 
CPR was stopped.  He was intubated in the field.  Total out of 
hospital CPR time was 30 minutes.
.
In the ED, initial BP was 130/62, HR 112.  The post-arrest team 
and cardiology consult were called.  He was given Amiodarone 
150mg bolus with a drip at 1mg/min.  His blood pressures dropped 
to 77/54 and he was started on peripheral dopamine, maxed out at 
20mcg/kg/min.  His blood pressure increased to 92/35, HR 59.  A 
CXR was done showing the tube to be too deep and it was pulled 
back 2cm.  After discussion with the family, they did not want 
further heroic measures.  A central line was not placed and he 
did not have a head CT.

 
Past Medical History:
PMH:  
# CAD s/p CABG times two with sternal osteo as a complication.  
# PPM  
# ___ with ___ Body Dementia c/b Visual Hallucinations. 
 (details unknown)
# iron deficiency anemia  
# spinal stenosis  
# macular degenration  
#GI bleed: AVMs
.  
PSurgHx:  
# Femur fracture s/p ___  
# R TKR in ___  
# L TKR in ___ (c/b post-op confusion and AF-RVR)  
# L hip repair ___  
# Right inguinal hernia repair  
# Pilonidal cyst I&D.  
 
Social History:
___
Family History:
unknown.
 
Physical Exam:
VS: BP=85/69 HR=72 RR=15 O2 sat=  100% on vent 100% FIO2, 10 
PEEP
GENERAL: Non-responsive to verbal or painful stimulus, 
intubated.  
HEENT: C-collar in place.  Pupils fixed and dilated, 
non-responsive.  Doll's eyes not able to be tested due to collar 
in place.  Corneal reflexes absent.   Multiple facial 
lacerations.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: Mottled in appearance with IO access in left leg. 
 
Pertinent Results:
___ 01:42AM BLOOD WBC-16.5* RBC-3.62* Hgb-8.6* Hct-34.0* 
MCV-90 MCH-25.4* MCHC-26.4* RDW-17.8* Plt ___
___ 01:42AM BLOOD ___ PTT-57.6* ___
___ 01:42AM BLOOD Glucose-215* UreaN-28* Creat-1.2 Na-142 
K-4.9 Cl-104 HCO3-16* AnGap-27*
___ 01:42AM BLOOD Lipase-90*
___ 02:08AM BLOOD Glucose-205* Lactate-10.1* Na-138 K-6.2* 
Cl-105 calHCO3-12*
.
ECG: 
An atrial paced rhythm with one native junctional beat. Diffuse 
non-specific ST-T wave abnormalities. Poor R wave progression. 
Cannot rule out old anteroseptal myocardial infarction. Low QRS 
voltage in the limb leads. No previous tracing available for 
comparison.  
.
CXR IMPRESSION: 
1. Endotracheal tube tip 1.5 cm from the carina, and should be 
slightly 
withdrawn. 
2. Confluent opacities throughout both lungs, likely reflect 
pulmonary edema. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with CAD who had an 
out-of-hospital arrest and prolonged period with no perfusion.  
He was resuscitated and admitted.  After discussion with the 
family, they wished to withdraw care due to his poor prognosis.  
The patient was extubated and died within 5 minutes.  The family 
declined an autopsy.  Time of death was 5:00am on ___.
 
Medications on Admission:
unknown at the time of admission
 
Discharge Medications:
expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
expired
 
Discharge Condition:
expired
 
Discharge Instructions:
expired
 
Followup Instructions:
___